US06372736B1
Benzyl (2S,4H)-4-hydroxy-2-(hydroxymethyl)pyrrolidine-1-carboxylate (2.0 g) [see Ceulemans et al, Chem. Eur. J. (1997), 3(12), 1997-2010] was added to a solution of phenol (1.12 g), triphenylphosphine (2.51 g) and diethylazodicarboxylate (1.51 ml) in dry tetrahydrofuran (40 ml). The reaction mixture was stirred at room temperature for 20 hours, after which time the solvent was removed under reduced pressure and the residue was dissolved in chloroform. The organic solution was washed with 15% aqueous sodium hydroxide solution, then brine, dried over magnesium sulphate and the solvent removed under reduced pressure. The crude product was purified by column chromatography on silica gel eluting with a solvent system of 1:1, by volume, hexane:ethyl acetate to afford benzyl (2S,4R)-4-hydroxy-2-(phenoxymethyl)pyrrolidine-1-carboxylate (0.69 g) as a clear oil.

reactant | phenol | 1.12 g | C1(=CC=CC=C1)O | C6H6O
reactant | triphenylphosphine | 2.51 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 1.51 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | benzyl (2S,4R)-4-hydroxy-2-(phenoxymethyl)pyrrolidine-1-carboxylate | 0.69 g | O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=CC=C1)COC1=CC=CC=C1 | C19H21NO4
